US06211234B1
A mixture of methyl 2,4-dihydroxybenzoate (50 g), benzyl chloride (37 mL), tetrabutylammonium bromide (0.25 g), potassium carbonate (44.4 g) and potassium iodide (18.4 g) in acetone is stirred at reflux overnight. The reaction mixture is evaporated to dryness and the residue is partitioned between water (300 mL) and ethyl acetate (300 mL). The organic layer is washed with aqueous sodium hydrogen carbonate solution and water, dried and evaporated. Crystallisation of the residue from ethyl acetate gives methyl 4-benzyloxy-2-hydroxybenzoate (45.1 g), in the form of a white solid.

reactant | methyl 2,4-dihydroxybenzoate | 50 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | benzyl chloride | 37 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 44.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 18.4 g | [I-].[K+]
catalyst | tetrabutylammonium bromide | 0.25 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-benzyloxy-2-hydroxybenzoate | 45.1 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)O | C15H14O4
